US04172198
A mixture of ethyl 2-(4-oxo-4H-pyran-3-yloxy)acetate (198 g) in 10% hydrochloric acid (10 ml) was heated at 70° to 75° C. for an hour under stirring. The reaction mixture was cooled and concentrated to the volume of about 5 ml. Precipitated crystals were collected by filtration, washed with water and dried to give crystals (1.8 g) of 2-(4-oxo-4H-pyran-3-yloxy)acetic acid monohydrate, mp 155° to 157° C.

reactant | ethyl 2-(4-oxo-4H-pyran-3-yloxy)acetate | 198 g | O=C1C(=COC=C1)OCC(=O)OCC | C9H10O5
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 2-(4-oxo-4H-pyran-3-yloxy)acetic acid monohydrate | 1.8 g | O.O=C1C(=COC=C1)OCC(=O)O | InChI=1S/C7H6O5.H2O/c8-5-1-2-11-3-6(5)12-4-7(9)10;/h1-3H,4H2,(H,9,10);1H2
